US05719271
1-O-(Tetrahydropyran-2-yl)-7-bromoheptanol 7-Bromoheptanol will be treated with dihydropyrane in the presence of acid to give 1-O-(tetrahydropyran-2-yl)-7-bromoheptanol.

reactant | 1-O-(Tetrahydropyran-2-yl)-7-bromoheptanol 7-Bromoheptanol | BrCCCCCCCO.O1C(CCCC1)OCCCCCCCBr
reactant | dihydropyrane | O1CCCC=C1 | C5H8O
product | 1-O-(tetrahydropyran-2-yl)-7-bromoheptanol | O1C(CCCC1)OCCCCCCCBr | C12H23BrO2
